### PR TITLE
Msg dep fixed equivocation

### PR DESCRIPTION
**Pull request by traiansf**

### CODE REVIEW

File: theories/VLSM/Core/Equivocation/MsgDepFixedSetEquivocation.v [hunk 1]
```diff
@@ -0,0 +1,570 @@
...
+  (message_dependencies : message -> set message)
+  (HMsgDep : forall i, MessageDependencies message_dependencies (IM i))
+  (equivocators : set index)
+  (Hbs_sub : forall sub_i, HasBeenSentCapability (sub_IM IM equivocators sub_i) := sub_has_been_sent_capabilities IM equivocators Hbs)
+  (Hbr_sub : forall sub_i, HasBeenReceivedCapability (sub_IM IM equivocators sub_i) := sub_has_been_received_capabilities IM equivocators Hbr)
+  (Hbo_sub := fun sub_i => HasBeenObservedCapability_from_sent_received (sub_IM IM equivocators sub_i))
+  .
+
+Definition equivocator_can_emit (m : message) : Prop :=
+  exists i, i ∈ equivocators /\ can_emit (pre_loaded_with_all_messages_vlsm (IM i)) m.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation/MsgDepFixedSetEquivocation.v:24]: Maybe you should try using `Record`s instead of `exists` and `/\`? It may be a bit difficult to find a good name for `i`, but I think this would be a step in the right direction.

File: theories/VLSM/Core/Equivocation/MsgDepFixedSetEquivocation.v [hunk 2]
```diff
@@ -0,0 +1,570 @@
...
+    Unshelve.
+    assumption.
+Qed.
+
+Lemma full_node_fixed_equivocation_incl
+  (Hfull : forall i, message_dependencies_full_node_condition_prop message_dependencies (IM i))
+  (Hsender_safety : sender_safety_alt_prop IM A sender)
+  : VLSM_incl
+    (composite_vlsm IM full_node_fixed_set_equivocation_constraint)
+    (composite_vlsm IM (fixed_equivocation_constraint IM Hbs Hbr equivocators)).
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation/MsgDepFixedSetEquivocation.v:548]:
```suggestion
  : VLSM_incl
      (composite_vlsm IM full_node_fixed_set_equivocation_constraint)
      (composite_vlsm IM (fixed_equivocation_constraint IM Hbs Hbr equivocators)).
```

File: theories/VLSM/Core/Equivocation/MsgDepFixedSetEquivocation.v [hunk 3]
```diff
@@ -0,0 +1,570 @@
...
+  apply full_node_fixed_equivocation_constraint_subsumption; assumption.
+Qed.
+
+Lemma full_node_fixed_equivocation_eq
+  {finite_index : finite.Finite index}
+  (Hchannel : channel_authentication_prop IM A sender)
+  (Hfull : forall i, message_dependencies_full_node_condition_prop message_dependencies (IM i))
+  : VLSM_eq
+    (composite_vlsm IM full_node_fixed_set_equivocation_constraint)
+    (composite_vlsm IM (fixed_equivocation_constraint IM Hbs Hbr equivocators)).
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation/MsgDepFixedSetEquivocation.v:560]:
```suggestion
  : VLSM_eq
      (composite_vlsm IM full_node_fixed_set_equivocation_constraint)
      (composite_vlsm IM (fixed_equivocation_constraint IM Hbs Hbr equivocators)).
```

File: theories/VLSM/Lib/ListExtras.v [hunk 4]
```diff
@@ -1352,32 +1329,52 @@ Proof.
...
+      apply IHl in Hb as [a' [Hin' Hfa']].
+      eexists; split; [right|]; eassumption.
+    }
+    destruct (f a) eqn:Hfa; [|right; assumption].
+    apply elem_of_cons in Hin as [Heq | Hin];
+      [left; congruence | right; assumption].
+  - induction l; intros [a' [Hin' Hfa']]; inversion Hin'; subst; clear Hin'; cbn.
+    + rewrite Hfa'; left.
+    + destruct (f a) eqn:Hfa; [right|];
+      apply IHl; exists a'; split; assumption.
```
Comment (wkolowski) [inline theories/VLSM/Lib/ListExtras.v:1354]: Not sure if I should be meddling with proofs of basic library lemmas, but anyway...

```suggestion
  induction l as [| h t]; cbn.
  - setoid_rewrite elem_of_nil. firstorder.
  - destruct (f h) eqn: Heq; setoid_rewrite elem_of_cons
    ; firstorder; subst; intuition congruence + eauto.
```

**Review by wkolowski — APPROVED** [review]
Looks good, although some proofs could be greatly simplified.
